US08557832B2
rac-3-[trans-2-hydroxycyclohexyl]-6-[(6-methoxypyridin-3-yl)methyl]benzo[h]quinazolin-4(3H)-one
To a solution of rac-6-[(6-chloropyridin-3-yl)methyl]-3-[trans-2-hydroxycyclohexyl]benzo[h]quinazolin-4(3H)-one (0.150 g, 0.357 mmol) in 3 mL of MeOH under an atmosphere of nitrogen was added trans-N,N′-dimethylcyclohexane-1,2-diamine (1.7 mg, 0.012 mmol), and copper(I) iodide (2.3 mg, 0.012 mmol). The mixture was irradiated in a microwave reactor at 160° C. for 4 h, cooled to rt and concentrated in vacuo. The residue was purified via silica gel chromatography, eluting with 0-100% ethyl acetate in hexanes, to provide the title compound that gave a proton NMR spectra consistent with theory and a mass ion (ES+) of 416.0 for [M+H]+: 1H NMR (400 MHz, CDCl3) δ 9.03-8.99 (m, 1H), 8.29 (s, 1H), 8.10 (s, 1H), 8.02-7.99 (m, 2H), 7.70-7.65 (m, 2H), 7.37-7.34 (m, 1H), 6.62 (d, J=8.5 Hz, 1H), 4.82 (br s, 1H), 4.39 (s, 2H), 4.01 (br s, 1H), 3.90 (s, 3H), 2.30-2.23 (m, 1H), 2.18-2.12 (m, 1H), 1.99-1.84 (m, 3H), 1.53-1.42 (m, 3H).

reactant | rac-6-[(6-chloropyridin-3-yl)methyl]-3-[trans-2-hydroxycyclohexyl]benzo[h]quinazolin-4(3H)-one | 0.357 mmol, 0.150 g | ClC1=CC=C(C=N1)CC=1C=C2C(N(C=NC2=C2C1C=CC=C2)[C@H]2[C@@H](CCCC2)O)=O | C24H22ClN3O2
reactant | trans-N,N′-dimethylcyclohexane-1,2-diamine | 0.012 mmol, 1.7 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | MeOH | 3 mL | CO | CH4O
catalyst | copper(I) iodide | 0.012 mmol, 2.3 mg | [Cu]I
product | rac-3-[trans-2-hydroxycyclohexyl]-6-[(6-methoxypyridin-3-yl)methyl]benzo[h]quinazolin-4(3H)-one | O[C@H]1[C@@H](CCCC1)N1C=NC2=C3C(=C(C=C2C1=O)CC=1C=NC(=CC1)OC)C=CC=C3 | C25H25N3O3
